US05571821
4-Methoxyphenylboric acid was prepared in the same manner as described in Example 33B from 4-bromoanisole and triisopropyl borate in 69% yield. This was used in the next step without any further purification.

reactant | 4-bromoanisole | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | triisopropyl borate | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
product | 4-Methoxyphenylboric acid | 69% yield | COC1=CC=C(C=C1)OB(O)O | C7H9BO4
